US08034811B2
2-(4-Methoxy-benzylamino)-benzoic acid
Prepared by a similar procedure as described for preparation 1J, starting from anthranilic acid methyl ester and 4-methoxybenzaldehyde. 13C-NMR (DMSO-d6) δ 169.9, 158.2, 150.6, 134.2, 131.6, 131.0, 128.3, 114.3, 113.9, 111.6, 110.2, 54.9, 45.3.

reactant | anthranilic acid methyl ester | COC(C=1C(N)=CC=CC1)=O | C8H9NO2
reactant | 4-methoxybenzaldehyde | COC1=CC=C(C=O)C=C1 | C8H8O2
product | 2-(4-Methoxy-benzylamino)-benzoic acid | COC1=CC=C(CNC2=C(C(=O)O)C=CC=C2)C=C1 | C15H15NO3
